US04048326
1,2-Bis-(3-methoxycarbonyl-2-thioureido)-4-nitrobenzene (9.7 g; 0.025 mole) and ferrous chloride tetrahydrate (1.13 g) were finely powdered together and suspended in a mixture of methanol (110 ml) and water (10 ml). The vigorously stirred suspension was then heated to reflux and reduced iron powder (6.53 g) was added in portions during five minutes. When the addition was complete, the reaction mixture was refluxed for a further forty five minutes and filtered. The dark brown filter cake was extracted with boiling methanol (2 × 120 ml), and the hot methanol solutions were combined with the hot aqueous methanol filtrate and evaporated to 200 ml. The solution was cooled to room temperature and the solid which separated was filtered off to give 3,4-bis-(3-methoxycarbonyl-2-thioureido)aniline (4.70 g), m.p. 186-187° C. (with decomposition), in the form of off-white crystals.

reactant | 1,2-Bis-(3-methoxycarbonyl-2-thioureido)-4-nitrobenzene | 0.025 mole, 9.7 g | COC(=O)NC(NC1=C(C=C(C=C1)[N+](=O)[O-])NC(=S)NC(=O)OC)=S | C12H13N5O6S2
solvent | methanol | 110 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 3,4-bis-(3-methoxycarbonyl-2-thioureido)aniline | 4.70 g | COC(=O)NC(NC=1C=C(N)C=CC1NC(=S)NC(=O)OC)=S | C12H15N5O4S2
